US06693123B2
[4-(3-Pyridylthiomethyl)-2-phenylbenzoyl]methionine
The desired compound was prepared by saponification of [4-(3-pyridylthiomethyl)-2-phenylbenzoyl]methionine methyl ester, prepared as in Example 236 using the procedure of Example 159. 1H nmr (300 MHz., DMSO-d6): δ 8.54, m, 1H; 8.39, dd, 1H; 7.83, m, 2H; 7.29-7.47, m, 8H; 4.39, s, 2H; 4.24, m, 1H; 2.25, m, 2H; 1.98, s, 3H; 1.85, m, 2H. MS (CI NH3): 453 (MH+); 304, 194. EA: calc'd for C24H24N2O3S2: C, 63.69; H, 5.34; N, 6.19; found C, 63.35; H, 5.20; N, 6.02.

reactant | [4-(3-pyridylthiomethyl)-2-phenylbenzoyl]methionine methyl ester | COC([C@@H](NC(C1=C(C=C(C=C1)CSC=1C=NC=CC1)C1=CC=CC=C1)=O)CCSC)=O | C25H26N2O3S2
solvent | EA | CC(OCC)=O | C4H8O2
product | [4-(3-Pyridylthiomethyl)-2-phenylbenzoyl]methionine | N1=CC(=CC=C1)SCC1=CC(=C(C(=O)N[C@@H](CCSC)C(=O)O)C=C1)C1=CC=CC=C1 | C24H24N2O3S2
